US07125883B1
tert-Butyl (5,6-dimethyl-1H-benzimidazol-2-yl)methylcarbamate (15)
1.3 g of a 30% NaOCH3 solution were added to tert-butyl cyanomethylcarbamate (0.4 g; 25.6 mmol) in 10 ml of CH3OH, and the mixture was stirred at room temperature for 1 h. After addition of 5.15 g of 4,5-diamino-ortho-xylene bishydrochloride, the reaction mixture was stirred overnight and then added to 100 ml of H2O, and the solid obtained by filtration was dried at 30° C. in vacuo. 0.5 g; ESI-MS [M+H+]=276

reactant | NaOCH3 | O([Na])C
reactant | tert-butyl cyanomethylcarbamate | 25.6 mmol, 0.4 g | C(#N)CNC(OC(C)(C)C)=O | C7H12N2O2
reactant | 4,5-diamino-ortho-xylene bishydrochloride | 5.15 g | Cl.Cl.NC=1C=C(C(=CC1N)C)C
reactant | H2O | 100 ml | O | H2O
solvent | CH3OH | 10 ml | CO | CH4O
product | tert-Butyl (5,6-dimethyl-1H-benzimidazol-2-yl)methylcarbamate | CC1=CC2=C(NC(=N2)CNC(OC(C)(C)C)=O)C=C1C | C15H21N3O2
